US06706921B2
87.4 ml of THF, were added with stirring to 50.4 g of a 30% sodium methoxide solution in methanol. 28.95 g of guanidinium chloride were subsequently introduced. The suspension was stirred at 16-24° C. for 2 h and cooled to 10° C., before 30.8 g of methyl 4,5-bismethanesulfonyl-2-methylbenzoate were introduced into the mixture. After the mixture had been stirred at 10° C. for 1 h, a corresponding amount of a hydrochloric acid solution was added to the mixture. Conventional work-up gave N-(4,5-bis-methanesulfonyl-2-methylbenzoyl)guanidinium chloride.

reactant | sodium methoxide | C[O-].[Na+]
reactant | guanidinium chloride | 28.95 g | [Cl-].NC(=[NH2+])N
reactant | methyl 4,5-bismethanesulfonyl-2-methylbenzoate | 30.8 g | CS(=O)(=O)C1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C11H14O6S2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | THF | 87.4 ml | C1CCOC1 | C4H8O
product | N-(4,5-bis-methanesulfonyl-2-methylbenzoyl)guanidinium chloride | [Cl-].CS(=O)(=O)C1=CC(=C(C(=O)NC(=[NH2+])N)C=C1S(=O)(=O)C)C | InChI=1S/C11H15N3O5S2.ClH/c1-6-4-8(20(2,16)17)9(21(3,18)19)5-7(6)10(15)14-11(12)13;/h4-5H,1-3H3,(H4,12,13,14,15);1H
